### PR TITLE
  feat(QuantumInfo): Robertson uncertainty relation for mixed states

### PR DESCRIPTION
**Pull request by naype888-cloud**
# feat(QuantumInfo): Robertson uncertainty relation for mixed states

Proves Robertson's uncertainty relation (1929) for two Hermitian observables on an arbitrary
finite-dimensional mixed state (`MState`), via Cauchy–Schwarz on the Hilbert–Schmidt space.
Single new file plus its import line, and three helper lemmas on `MState`.

`t-quantum-info`

## Files

- **`QuantumInfo/Measurements/RobertsonUncertainty.lean`** — new file, 228 lines.
- **`QuantumInfo.lean`** — one `public import` line for the new module (kept sorted).
- **`QuantumInfo/States/Mixed/MState.lean`** — three helper lemmas (`exp_val_ℂ_hermitian`, `variance`, `variance_nonneg`).

## Definitions added

All in `QuantumInfo/Measurements/RobertsonUncertainty.lean`.

| Name | Meaning |
|---|---|
| `HermitianMat.Bracket` | Commutator bracket `⁅G, O⁆ = i(GO − OG)` as a `HermitianMat`. |
| `MState.hsVec` | *(private)* Hilbert–Schmidt embedding of a matrix into `EuclideanSpace ℂ (d × d)`. |
| `MState.centeredVec` | *(private)* The centered vector `A √ρ − ⟨A⟩ √ρ` in Hilbert–Schmidt space. |

## Theorems

| Name | Statement |
|---|---|
| `robertson_uncertainty` | For Hermitian `G, O` on a mixed state `ρ`: `⟨i[G,O]⟩² / 4 ≤ Var(G) · Var(O)`. (H. P. Robertson, *Phys. Rev.* **34**, 163–164 (1929).) |
| `robertson_normalized` | Under the normalization `⟨i[G,O]⟩ = 1`: `1 ≤ 4 · Var(O) · Var(G)`. Free of positivity hypotheses. |

## Proof strategy

Embed `√ρ` and `A√ρ` into `EuclideanSpace ℂ (d × d)` (the Hilbert–Schmidt space), form the
centered vector `A√ρ − ⟨A⟩√ρ`, show its squared norm is the variance, then apply Cauchy–Schwarz
to the pair of centered vectors. The imaginary part of the inner product recovers the commutator
expectation.

## On `hsVec` vs `Matrix.toEuclideanLin`

`hsVec` is a deliberately minimal wrapper placing matrix entries into `EuclideanSpace ℂ (d × d)`.
Using Mathlib's `Matrix.toEuclideanLin` would pull in an additional `[DecidableEq d]` threading
beyond what is already needed for the commutator bracket. Happy to switch if reviewers prefer.

## References

* H. P. Robertson, *The Uncertainty Principle*, Phys. Rev. **34**, 163–164 (1929)

## AI disclosure

AI-assisted (Claude). The author has certified every definition, theorem statement, and proof
step, and has personally verified the bibliographic references.

### CODE REVIEW

File: QuantumInfo/Measurements/CramerRao.lean [hunk 1]
```diff
@@ -0,0 +1,291 @@
...
+
+open scoped ComplexConjugate
+
+variable {d : Type*} [Fintype d]
+
+/-! ## A. Expectation value and variance of a Hermitian observable on a pure state -/
+
+/-- The state vector of a `Ket`, seen in `EuclideanSpace ℂ d` where Mathlib's inner product
+space API (in particular Cauchy–Schwarz) is available. -/
+def Ket.toEuclideanSpace (ψ : Ket d) : EuclideanSpace ℂ d :=
```
Comment (Timeroot) [inline QuantumInfo/Measurements/CramerRao.lean]: This can use `ketToEuclidean` in Braket.lean, feel free to make that non-private. Same for the two lemmas below.

File: QuantumInfo/Measurements/CramerRao.lean [hunk 2]
```diff
@@ -0,0 +1,291 @@
...
+  exact Real.sqrt_one
+
+lemma Ket.inner_self_toEuclideanSpace (ψ : Ket d) :
+    inner ℂ ψ.toEuclideanSpace ψ.toEuclideanSpace = (1 : ℂ) := by
+  rw [@inner_self_eq_norm_sq_to_K ℂ, ψ.norm_toEuclideanSpace]
+  norm_num
+
+/-- The action of a matrix on a vector of `EuclideanSpace ℂ d`, via `Matrix.mulVec` on the
+underlying function. -/
+def Matrix.onVec (A : Matrix d d ℂ) (v : EuclideanSpace ℂ d) : EuclideanSpace ℂ d :=
```
Comment (Timeroot) [inline QuantumInfo/Measurements/CramerRao.lean]: I'm not sure this definition should exist, but if it should, it should go in another file!

File: QuantumInfo/Measurements/CramerRao.lean [hunk 3]
```diff
@@ -0,0 +1,291 @@
...
+  simp [Matrix.onVec_apply, sub_mul, Finset.sum_sub_distrib]
+
+lemma Matrix.onVec_smul (c : ℂ) (A : Matrix d d ℂ) (v : EuclideanSpace ℂ d) :
+    (c • A).onVec v = c • A.onVec v := by
+  ext i
+  simp [Matrix.onVec_apply, Finset.mul_sum, mul_assoc]
+
+/-- Two Hermitian matrices commute past the inner product: `⟪v, A w⟫ = ⟪A v, w⟫`. This is the
+only place `A.IsHermitian` is used in this file; everything else is Cauchy–Schwarz. -/
+lemma Matrix.IsHermitian.inner_onVec_comm {A : Matrix d d ℂ} (hA : A.IsHermitian)
```
Comment (Timeroot) [inline QuantumInfo/Measurements/CramerRao.lean]: Down to here, all in another file if keeping at all.

File: QuantumInfo/Measurements/CramerRao.lean [hunk 4]
```diff
@@ -0,0 +1,291 @@
...
+  rw [Finset.sum_comm]
+  refine Finset.sum_congr rfl fun i _ => Finset.sum_congr rfl fun j _ => ?_
+  have hij : (starRingEnd ℂ) (A i j) = A j i := by
+    have := congrFun (congrFun hA.eq j) i
+    simpa [Matrix.conjTranspose_apply] using this
+  rw [hij]
+  ring
+
+/-- Expectation value of a matrix `A` on the pure state `ψ`: `⟨ψ, A ψ⟩`. -/
+def Ket.expValC (ψ : Ket d) (A : Matrix d d ℂ) : ℂ :=
```
Comment (Timeroot) [inline QuantumInfo/Measurements/CramerRao.lean]: You know I think actually this whole thing can be done for mixed states, which easily generalized the Ket formulation. I don't think it's any more mathematically complicated. These values like expValC are just restating the specialization for MState.expValC, and so you might as well go that route!

File: QuantumInfo/Measurements/CramerRao.lean [hunk 5]
```diff
@@ -0,0 +1,291 @@
...
+      ‖ψ.centered G‖ * ‖ψ.centered O‖ := norm_inner_le_norm _ _
+  have hprodsq : (‖ψ.centered G‖ * ‖ψ.centered O‖) ^ 2 = ψ.variance G * ψ.variance O := by
+    rw [mul_pow, ψ.norm_centered_sq hG, ψ.norm_centered_sq hO]
+  have hcomm_herm : (Complex.I • (G * O - O * G)).IsHermitian := by
+    unfold Matrix.IsHermitian
+    rw [Matrix.conjTranspose_smul, Matrix.conjTranspose_sub, Matrix.conjTranspose_mul,
+      Matrix.conjTranspose_mul, hG.eq, hO.eq, Complex.star_def, Complex.conj_I]
+    module
+  have hantisym : ψ.expValC (G * O) - ψ.expValC (O * G) =
+      (inner ℂ (ψ.centered G) (ψ.centered O) : ℂ) -
```
Comment (Timeroot) [inline QuantumInfo/Measurements/CramerRao.lean]: This type of `inner ℂ` and `starRingEnd ℂ` notation is much much more verbose than it needs to be. I think most of this could be done much shorter.

Really this whole proof could likely be golfed down..

**Review by Timeroot — COMMENTED** [review]
I think the main thing is that this should be done for MState instead. You'll find it has a lot more of the API you want already there.

File: Physlib/QuantumMechanics/Operators/MixedStateUncertainty.lean
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/Operators/MixedStateUncertainty.lean]: Actually sorry, the dependence on `variance` MState here would either mean this would necessarily have to go into QuantumInfo or into PhyslibAlpha (as we don't have these yet in Physlib). My bad.

**Comment by naype888-cloud** [comment]
sry guys i all ready fix the MSstates and the observation by timeroot and joseph, i shutdown this PR, and upload a newone attending your sugestions,  this is the newone PR. #1676
